US04695569
A mixture of 3.7 parts of 2-amino-5-(methylthio)benzoic acid and 8.9 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]formamide was stirred for 5 hours at 150°-160° C. The whole was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 1,1'-oxybisethane and acetonitrile. The product was filtered off and dried, yielding 4.5 parts (41.5%) of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-6-(methylthio)-4(3H)-quinazolinone; mp. 101.4° C. (compound 138).

reactant | 2-amino-5-(methylthio)benzoic acid | NC1=C(C(=O)O)C=C(C=C1)SC | C8H9NO2S
reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]formamide | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=O | C22H26FN5O
product | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-6-(methylthio)-4(3H)-quinazolinone | 41.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C=NC1=CC=C(C=C1C2=O)SC | C30H31FN6OS
